US09102614B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(6-ethyl-7-fluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate:
A mixture of (S)-ethyl 2-tert-butoxy-2-(7-fluoro-3-methyl-1-(trifluoromethylsulfonyloxy)-6-vinylnaphthalen-2-yl)acetate (23 mg, 0.050 mmol) and 10% Palladium on carbon (5 mg) in ethanol (2.0 mL) was stirred under a hydrogen atmosphere for 4 hours, then filtered through a pad of Celite. Filtrate was concentrated to give a thin film (23 mg) that was used in the next step without further purification.

reactant | (S)-ethyl 2-tert-butoxy-2-(7-fluoro-3-methyl-1-(trifluoromethylsulfonyloxy)-6-vinylnaphthalen-2-yl)acetate | 0.050 mmol, 23 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=C(C=C2C=C1C)C=C)F)OS(=O)(=O)C(F)(F)F | C22H24F4O6S
catalyst | Palladium on carbon | 5 mg | [Pd] | Pd
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | (S)-ethyl 2-tert-butoxy-2-(6-ethyl-7-fluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=C(C=C2C=C1C)CC)F)OS(=O)(=O)C(F)(F)F | C22H26F4O6S
